US05175157
2-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-hexahydro-azepin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinolinehydrochloride
Prepared from 6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and N-[2-(3,4-dimethoxy-phenyl)-ethyl]-3-chloromethyl-hexahydroazepine analogously to Example 2.

reactant | 6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | COC=1C=C2CCNC(C2=CC1OC)=O | C11H13NO3
reactant | N-[2-(3,4-dimethoxy-phenyl)-ethyl]-3-chloromethyl-hexahydroazepine | COC=1C=C(C=CC1OC)CCN1CC(CCCC1)CCl | C17H26ClNO2
product | 2-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-hexahydro-azepin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinolinehydrochloride | Cl.COC=1C=C(C=CC1OC)CCN1CC(CCCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | InChI=1S/C28H38N2O5.ClH/c1-32-24-9-8-20(15-25(24)33-2)10-13-29-12-6-5-7-21(18-29)19-30-14-11-22-16-26(34-3)27(35-4)17-23(22)28(30)31;/h8-9,15-17,21H,5-7,10-14,18-19H2,1-4H3;1H
